US04563448
537 mg (0.0015) of 1-cyclopropyl-1,4-dihydro-6-nitro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid in a mixture of 7.5 ml of glycol monomethyl ether and 3 ml of dimethylsulphoxide are heated under reflux with 2 g of methyl acrylate for 8 hours. 10 ml of water are added to the solution and the precipitate is filtered off with suction, washed with methanol and dried. 0.5 g of 1-cyclopropyl-1,4-dihydro-7-[4-(2-methoxycarbonylethyl)-1-piperazinyl]-6-nitro-4-oxo-3-quinolinecarboxylic acid of decomposition point 208° to 211° C. are obtained.

reactant | 1-cyclopropyl-1,4-dihydro-6-nitro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid | 537 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)[N+](=O)[O-])=O)C(=O)O | C17H18N4O5
reactant | methyl acrylate | 2 g | C(C=C)(=O)OC | C4H6O2
reactant | water | 10 ml | O | H2O
solvent | glycol monomethyl ether | 7.5 ml | COCCO | C3H8O2
solvent | dimethylsulphoxide | 3 ml | CS(=O)C | C2H6OS
product | 1-cyclopropyl-1,4-dihydro-7-[4-(2-methoxycarbonylethyl)-1-piperazinyl]-6-nitro-4-oxo-3-quinolinecarboxylic acid | 0.5 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)CCC(=O)OC)[N+](=O)[O-])=O)C(=O)O | C21H24N4O7
